US05434165
4-Amino-3-(1-azabicyclo[3.3.0]octan-5-yl)carbonylaminoquinoline
In 330 ml of pyridine was dissolved 5.52 g (34.7 mmol) of 3,4-diaminoquinoline. To the solution was slowly added 7.70 g (36.5 mmol) of 5-chlorocarbonyl-1-azabicyclo[3.3.0]octane hydrochloride while stirring at -15° to 20° C., followed by stirring at 15 to 20° C. for 16 hours. The reaction mixture was concentrated under reduced pressure, and 100 ml of a saturated sodium hydrogen-carbonate aqueous solution was added to the residue. The mixture was extracted with 800 ml of chloroform. The extract was washed with 40.0 ml of a sodium chloride aqueous solution, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by alumina column chromatography to obtain 4.30 g (yield: 41.8%) of the titled compound as an oil. The resulting oil was crystallized from ethanol-diethyl ether to obtain 3.05 g of the titled compound as a pale yellow prism.

reactant | 3,4-diaminoquinoline | 34.7 mmol, 5.52 g | NC=1C=NC2=CC=CC=C2C1N | C9H9N3
reactant | 5-chlorocarbonyl-1-azabicyclo[3.3.0]octane hydrochloride | 36.5 mmol, 7.70 g | Cl.ClC(=O)C12CCCN2CCC1
solvent | pyridine | 330 ml | N1=CC=CC=C1 | C5H5N
product | 4-Amino-3-(1-azabicyclo[3.3.0]octan-5-yl)carbonylaminoquinoline | 4.30 g, yield: 41.8% | NC1=C(C=NC2=CC=CC=C12)NC(=O)C12CCCN2CCC1 | C17H20N4O
